US09108938B2
Morpholin-4-yl-(2-trifluoromethyl-pyrimidin-5-yl)-acetonitrile
To a mixture of 2-trifluoromethyl-pyrimidine-5-carbaldehyde (572 mg, 3.25 mmol) and TMSCN (645 mg, 6.49 mmol) in HOAc (10 ml) was added dropwise morpholine (311 mg, 3.57 mmol), followed by NaOAc (320 mg, 3.90 mmol). The mixture was stirred at room temperature overnight. The solvent was removed in vacuum. The residue was basified by addition of sat. aq. NaHCO3 solution to pH 8; then extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated to yield the title compound (591 mg, yield: 67%). 1H NMR (CDCl3 400 MHz): δppm 9.10 (s, 2H), 4.96 (s, 1H), 3.88-3.71 (m, 4H), 2.79-2.55 (m, 4H).

reactant | 2-trifluoromethyl-pyrimidine-5-carbaldehyde | 3.25 mmol, 572 mg | FC(C1=NC=C(C=N1)C=O)(F)F | C6H3F3N2O
reactant | TMSCN | 6.49 mmol, 645 mg | [Si](C)(C)(C)C#N | C4H9NSi
reactant | morpholine | 3.57 mmol, 311 mg | N1CCOCC1 | C4H9NO
reactant | NaOAc | 3.90 mmol, 320 mg | CC(=O)[O-].[Na+]
solvent | HOAc | 10 ml | CC(=O)O | C2H4O2
product | Morpholin-4-yl-(2-trifluoromethyl-pyrimidin-5-yl)-acetonitrile | 591 mg, yield: 67% | N1(CCOCC1)C(C#N)C=1C=NC(=NC1)C(F)(F)F | C11H11F3N4O
